US04156777
1.79 g (10 mmol) of 2-amino-2-deoxy-D-glucopyranose is dissolved in a mixture of 10 ml methanol and 5 ml dimethyl sulfoxide, and this solution is added dropwise to a solution prepared by dissolving 3.28 g (12 mmol) of o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate in a mixture of 10 ml methylene chloride and 10 ml tetrahydrofuran, while stirring, at 20°-25° C. over 10 minutes. The resultant mixture is stirred at the same temperature for a further 1.5 hours. The thus reacted solution is concentrated at 40° C. and below, under reduced pressure. The crystalline residue obtained is washed with petroleum ether, dried under reduced pressure, and recrystallized from ethanol to give 2.56 g of 3-(D-glucopyranos-2-yl)-1-(2-chloroethyl)-1-nitrosourea. Yield 81.6%. mp 147°-148° C. (decomp.). Analysis for C9H16N3O7Cl (MW 313.69):

reactant | 2-amino-2-deoxy-D-glucopyranose | 10 mmol, 1.79 g | N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C6H13NO5
reactant | o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 12 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
reactant | methanol | 10 ml | CO | CH4O
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(D-glucopyranos-2-yl)-1-(2-chloroethyl)-1-nitrosourea | 2.56 g, Yield 81.6% | OC1[C@](O)([C@@H](O)[C@H](O)[C@H](O1)CO)NC(N(N=O)CCCl)=O | C9H16ClN3O8
